US07576215B2
3-{8-(TRIFLUOROMETHYL)-3-[3-(TRIFLUOROMETHYL)PHENYL]QUINOLIN-4-Yl}PHENOL
The title compound was prepared from [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone and (3-Trifluoromethyl-phenyl)-acetaldehyde following the procedure of Example 457: HRMS: calcd for C23H13F6NO+H+, 434.09741; found (ESI, [M+H]+), 434.0993.

reactant | [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)O | C14H10F3NO2
reactant | (3-Trifluoromethyl-phenyl)-acetaldehyde | FC(C=1C=C(C=CC1)CC=O)(F)F | C9H7F3O
product | 3-{8-(TRIFLUOROMETHYL)-3-[3-(TRIFLUOROMETHYL)PHENYL]QUINOLIN-4-Yl}PHENOL | FC(C=1C=CC=C2C(=C(C=NC12)C1=CC(=CC=C1)C(F)(F)F)C=1C=C(C=CC1)O)(F)F | C23H13F6NO
